US05716963
A solution of phenylacetyl chloride (1.07 g, 6.6 mmol) in dry benzene (7 ml) was added drop by drop for 10 minutes to a cooled solution of 2,5-dimethoxyaniline (1 g, 6.5 mmol) in dry benzene (7 ml). The reaction mixture was agitated at room temperature for 1 hour and then the reaction was stopped with cold 24% aqueous sodium carbonate (10 ml.) After vigorously agitating the two-phase system for 30 minutes, the benzene layer was separated and the aqueous phase was extracted with ether (3×50 ml). The combined organic layers were dried over sodium sulfate and evaporated and the residue was crystallized from petroleum ether, yielding 1.61 g 91%) of N-(2',5'-dimethoxyphenyl)-2-phenylacetamide. m.p. 85° C. (petroleum ether).

reactant | phenylacetyl chloride | 6.6 mmol, 1.07 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 2,5-dimethoxyaniline | 6.5 mmol, 1 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 7 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 7 ml | C1=CC=CC=C1 | C6H6
product | N-(2',5'-dimethoxyphenyl)-2-phenylacetamide | COC1=C(C=C(C=C1)OC)NC(CC1=CC=CC=C1)=O | C16H17NO3
